US05403852
The procedure is as in the preceding example, heating 1 g of 7-(4,5-diphenyl-2-oxazolyl)heptanenitrile, twice 0.9 g of sodium azide and twice 0.7 g of ammonium chloride in 20 cm3 of dimethylformamide. The solid residue derived from the extractions is crystallised in a mixture of ethyl acetate (5 cm3) and diisopropyl ether (15 cm3). 0.4 g (35%) of 5-[6-(4,5-diphenyl-2-oxazolyl)hexyl]tetrazole is obtained in the form of white crystals, melting point 132° C.

reactant | 7-(4,5-diphenyl-2-oxazolyl)heptanenitrile | 1 g | C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)CCCCCCC#N | C22H22N2O
reactant | sodium azide | 0.9 g | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 0.7 g | [Cl-].[NH4+]
solvent | dimethylformamide | 20 cm3 | CN(C=O)C | C3H7NO
product | 5-[6-(4,5-diphenyl-2-oxazolyl)hexyl]tetrazole | 0.4 g, 35% | C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)CCCCCCC1=NN=NN1 | C22H23N5O
